US05387718
5 mol of o-tert-butylphenol was charged into a reactor, along with 400 ml of decane and 5% of 4,5-dihydro-2-phenylimidazole, and the mixture was heated to 140° C. Then 5.5 mol of diethyl carbonate was added portionwise over a period of 4 hr. The resulting ethanol was continuously removed by distillation from the reaction mixture. After completion of the reaction, 4.6 mol of o-tert-butylphenyl ethyl ether was obtained from the mixture by distillation. The yield corresponded to 92% of theoretical, based on the starting amount of o-tert-butylphenol.

reactant | o-tert-butylphenol | 5 mol | C(C)(C)(C)C1=C(C=CC=C1)O | C10H14O
reactant | 4,5-dihydro-2-phenylimidazole | C1(=CC=CC=C1)C=1NCCN1 | C9H10N2
reactant | diethyl carbonate | 5.5 mol | C(OCC)(OCC)=O | C5H10O3
solvent | decane | 400 ml | CCCCCCCCCC | C10H22
product | o-tert-butylphenyl ethyl ether | 4.6 mol | C(C)OC1=C(C=CC=C1)C(C)(C)C | C12H18O
